US08202873B2
Dissolve 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester (1.00 g, 3.26 mmol) in N,N-dimethylacetamide (15 mL). Add potassium carbonate (1.29 g, 9.36 mmol), 4-methoxymethylbenzeneboronic acid (649 mg, 3.90 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.0225 g, 0.034 mmol), then water (5 mL) and degas with nitrogen for 30 min. Heat at 110° C. for 18 hr. under nitrogen. Cool to room temperature, add water (20 mL) and extract with DCM (3×20 mL). Combine the DCM extracts and pass through an IST Phase Separator Frit® and concentrate. Purify (silica gel chromatography, eluting with 20:80 ethyl acetate:isohexane), to give 3′-(4-methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester as a yellow oil (1.32 g, 105%). MS (ES): m/z=385 [M+H]+.

reactant | 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | 3.26 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1Cl | C13H19ClN4O2
reactant | potassium carbonate | 9.36 mmol, 1.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxymethylbenzeneboronic acid | 3.90 mmol, 649 mg | COCC1=CC=C(C=C1)B(O)O | C8H11BO3
reactant | water | 5 mL | O | H2O
reactant | water | 20 mL | O | H2O
solvent | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.034 mmol, 0.0225 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′-(4-methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid tert-butyl ester | 1.32 g, 105% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)COC | C21H28N4O3
